US09145413B2
A mixture of (5-fluoro-pyridin-2-yl)-hydrazine (889 mg, 7.00 mmol), N-methyl-D-proline hydrochloride (1.274 g, 7.7 mmol) and HOBt.H2O (95 mg, 0.70 mmol) in DCM (20 mL) was treated with EDC (1.494 g, 7.8 mmol), and the mixture stirred at RT for 6.5 h. The mixture was then diluted with sat. aq. NaHCO3 solution, NaCl added, and the mixture extracted with DCM (8×20 mL). The combined organics were dried and concentrated in vacuo to give (R)-1-methyl-pyrrolidine-2-carboxylic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide as a pale orange solid (1.09 g). This was dissolved in THF (20 mL) then Ph3P (2.40 g, 9.16 mmol), Et3N (2.6 mL, 18.3 mmol), and hexachloroethane (2.17 g, 9.16 mmol) added sequentially. The mixture was stirred at RT for 4 h, then was filtered, the filter-cake washed with diethyl ether, and the combined organics concentrated in vacuo. The residue was purified on a SCX-2 cartridge (50 g), washing with methanol then eluting basic components with 0.2-2 M ammonia in methanol. Product containing fractions were combined and concentrated in vacuo. The residue was further purified by FCC, using 0-100% EtOAc in cyclohexane, then 8-10% MeOH in EtOAc, to give the title compound as a pale red oil (876 mg, 57%). LCMS (Method 3): Rt 0.55 min, m/z 221 [MH+].

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | 7.00 mmol, 889 mg | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | N-methyl-D-proline hydrochloride | 7.7 mmol, 1.274 g | Cl.CN1[C@@H](C(=O)O)CCC1
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.70 mmol, 95 mg | O | H2O
reactant | EDC | 7.8 mmol, 1.494 g
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NaCl | [Na+].[Cl-]
product | (R)-1-methyl-pyrrolidine-2-carboxylic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide | 1.09 g | FC=1C=CC(=NC1)NNC(=O)[C@@H]1N(CCC1)C | C11H15FN4O
